US05545669
e) 2-[2-[3,5-Bis(trifluoromethyl)phenylsulfonamido]-4-trifluoromethyl-phenoxy]phenylacetic acid
Following the procedure of Example 1(f) except substituting benzhydrol 2-[3,5-bis (trifluoromethyl)phenylsulfonamido]-4-trifluoromethylphenoxy]phenyl acetate for benzhydrol 2-[2-[3,5-bis(trifluoromethyl)phenylsulfonamido]-4-trifluoromethylphenoxy]benzoate, the title compound was obtained; mp 165°-166° C.

reactant | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
reactant | benzhydrol 2-[2-[3,5-bis(trifluoromethyl)phenylsulfonamido]-4-trifluoromethylphenoxy]benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC1=C(OC2=C(C(=O)[O-])C=CC=C2)C=CC(=C1)C(F)(F)F)(F)F
product | 2-[2-[3,5-Bis(trifluoromethyl)phenylsulfonamido]-4-trifluoromethyl-phenoxy]phenylacetic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC1=C(OC2=C(C=CC=C2)CC(=O)O)C=CC(=C1)C(F)(F)F)(F)F | C23H14F9NO5S
